US20010016587A1
1-Benzyl-4-chloro-5-(hydroxymethyl)-2-(4-nitrophenyl)imidazole (Compound 8)
Sodium borohydride (1.1 g, 29 mmole) was added in three portions to a stirred mixture of crude 1-benzyl-4-chloro-5-formyl-2-(4-nitrophenyl)imidazole (54.2 g, 88 mmole) in methanol (250 ml) at room temperature. After two hours, more sodium borohydride (0.51 g, 15 mmol) was added, the mixture was stirred for 30 minutes and the methanol was evaporated. The residue was mixed with water (250 ml) and extracted with methylene chloride (200 ml, 3×50 ml). The combined organic solutions were washed with water (2×50 ml) and dried (NaSO4) overnight.

reactant | Sodium borohydride | 29 mmole, 1.1 g | [BH4-].[Na+]
reactant | 1-benzyl-4-chloro-5-formyl-2-(4-nitrophenyl)imidazole | 88 mmole, 54.2 g | C(C1=CC=CC=C1)N1C(=NC(=C1C=O)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C17H12ClN3O3
reactant | sodium borohydride | 15 mmol, 0.51 g | [BH4-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 1-Benzyl-4-chloro-5-(hydroxymethyl)-2-(4-nitrophenyl)imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1CO)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14ClN3O3
